US06989392B2
8-(4-((2-aminoquinolin-8-yl)oxy)-1-methylbutoxy)quinolin-2-amine
The title compound was prepared according to the procedure described in Example 86 substituting 2-aminoquinolin-8-ol for 8-hydroxyquinaldine. 1H NMR (500 MHz, CDCl3) δ ppm 7.99 (m, 2H), 7.33 (m, 3H), 7.22 (m, 2H), 7.14 (m, 2H), 7.08 (m, 1H), 4.69 (m, 1H), 4.23 (m, 2H), 1.88 (m, 4H), 1.46 (d, 3H); MS (DCI/NH3) m/z 389 [M+H]+.

reactant | 2-aminoquinolin-8-ol | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | 8-hydroxyquinaldine | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NH3 | N | H3N
product | 8-(4-((2-aminoquinolin-8-yl)oxy)-1-methylbutoxy)quinolin-2-amine | NC1=NC2=C(C=CC=C2C=C1)OCCCC(OC=1C=CC=C2C=CC(=NC12)N)C | C23H24N4O2
